US09428528B2
Step 2 Preparation of 5-[4-((4S,5R)-3-tert-Butoxycarbonyl-4-fluoromethyl-2,2-dimethyl-oxazolidin-5-yl)-phenyl]-pyridine-2-carboxylic acid
To the solution of (4S,5R)-5-[4-(6-Cyano-pyridin-3-yl)-phenyl]-4-fluoromethyl-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester (0.3 g, 0.729 mmol) in methanol (3 mL) is added KOH (0.409 g, 7.29 mmol) at room temperature. Resulting reaction mixture heated at 65° C. for 48 hours. Solvent is evaporated in vacuo, water (10 mL) is added and aqueous layer is washed with CH2Cl2. Aqueous layer is acidified with saturated citric acid solution and extracted with CH2Cl2. Organic layer dried over sodium sulphate, solvent is evaporated in vacuo to afford title compound (0.22 g): 1H-NMR (400 MHz, DMSO-d6): δ: 1.43 (s, 9H), 1.51 (s, 3H), 1.64 (s, 3H), 3.84-3.90 (m, 2H), 4.45-4.59 (m, 2H), 4.77-5.0 (m, 2H), 5.14 (d, 1H, J=7.2 Hz), 7.61 (d, 2H, J=8.08 Hz), 7.83 (d, 2H, J=8.12 Hz), 8.08 (d, 1H, J=8.32 Hz), 8.23 (d, 1H, J=8.68 Hz), 9.0 (s, 1H). LC-MS (m/z): [M+H]=431.2.

reactant | (4S,5R)-5-[4-(6-Cyano-pyridin-3-yl)-phenyl]-4-fluoromethyl-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester | 0.729 mmol, 0.3 g | C(C)(C)(C)OC(=O)N1C(O[C@@H]([C@H]1CF)C1=CC=C(C=C1)C=1C=NC(=CC1)C#N)(C)C | C23H26FN3O3
reactant | KOH | 7.29 mmol, 0.409 g | [OH-].[K+]
reactant | methanol | 3 mL | CO | CH4O
product | 5-[4-((4S,5R)-3-tert-Butoxycarbonyl-4-fluoromethyl-2,2-dimethyl-oxazolidin-5-yl)-phenyl]-pyridine-2-carboxylic acid | 0.22 g | C(C)(C)(C)OC(=O)N1C(O[C@@H]([C@H]1CF)C1=CC=C(C=C1)C=1C=CC(=NC1)C(=O)O)(C)C | C23H27FN2O5
